US04324730
A solution of 3 g of 2,2-difluoroglutaric anhydride in 25 ml of dry methanol is allowed to remain at 25° for 18 hrs. At the end of this period the methanol is removed in vacuo leaving behind 2,2-difluoroglutaric 1-methyl ester as an oil.

reactant | 2,2-difluoroglutaric anhydride | 3 g | FC1(C(=O)OC(CC1)=O)F | C5H4F2O3
reactant | methanol | 25 ml | CO | CH4O
product | 2,2-difluoroglutaric 1-methyl ester | COC(C(CCC(=O)O)(F)F)=O | C6H8F2O4
